* C:\Users\phild\Documents\Uni\S4\APP4\S4_APP4\S4iAPP4_prob\mux2x3b_test.asc
XU1 o1 o2 o3 out Bin2Dec Vhigh={vv}
XU2 b b1 b2 b3 Dec2Bin Vhigh={vv}
XU3 a a1 a2 a3 Dec2Bin Vhigh={vv}
V1 vss 0 1.8
Va a 0 3
Vb b 0 5
Vsel sel 0 PULSE(0 1.8 1n 10p 10p 1n 2n 5)
XX2 vss a1 a2 a3 b1 b2 b3 0 o1 o2 o3 sel mux2x3b params: ll=180n wn={8*nnw} wp={8*nnw*mp}

* block symbol definitions
.subckt mux2x3b vdd a1 a2 a3 b1 b2 b3 vss o1 o2 o3 sel
M1 a3 sel N004 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 NC_01 N001 NC_02 NC_03 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M3 NC_04 N002 NC_05 NC_06 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M4 N004 sel b3 vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M5 NC_07 N007 NC_08 NC_09 NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M6 NC_10 N008 NC_11 NC_12 NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M7 N003 NC_13 NC_14 N003 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M8 NC_15 NC_16 N006 N006 NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M13 vdd N004 N005 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M14 N005 N004 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M15 vdd N005 o1 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M16 o1 N005 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.ends mux2x3b

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\phild\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=2.21
.lib BU_180nm.lib
.op
.tran 0 10n 0 10p
.lib Bin2Dec.sub
.lib Dec2Bin.sub
.backanno
.end
